US08383821B2
3′-(((1-Cyclopropyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile.
A microwave tube was charged with 3′-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile (21.5 mg, 0.05 mmol), (1-ethoxycyclopropoxy)trimethylsilane (96.5 μL, 0.47 mmol), sodium cyanoborohydride (15 mg, 0.24 mmol). The tube was flushed with nitrogen and treated with methanol (2 mL) and acetic acid (3 drops). The tube was sealed and heated at 90° C. for 1 h via microwave. After cooling, the reaction was concentrated and purified by flash chromatography on silica gel (10% methanol/methylene chloride) to afford 13.5 mg (55%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 7.76 (s, 1H), 7.74 (s, 1H), 7.66 (s, 1H), 7.60 (s, 1H), 7.58 (s, 1H), 7.42 (s, 1H), 7.33-7.37 (m, 5H), 7.21-7.24 (m, 1H), 4.45 (s, 2H), 3.44 (s, 2H), 3.11-3.14 (m, 2H), 2.56-2.61 (m, 2H), 2.35-2.38 (m, 2H), 2.09-2.16 (m, 2H), 1.78-1.79 (m, 1H), 0.82 (m, 2H), 0.54-0.56 (m, 2H). Mass spec.: 491.44 (MH)+. Accurate mass spec.: m/z 491.2331 [MH]+, Δ=4.2 ppm.

reactant | 3′-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | 0.05 mmol, 21.5 mg | C1(=CC=CC=C1)C1(CCNCC1)COCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C27H25F3N2O
reactant | (1-ethoxycyclopropoxy)trimethylsilane | 0.47 mmol, 96.5 μL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 0.24 mmol, 15 mg | C(#N)[BH3-].[Na+]
product | 3′-(((1-Cyclopropyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | C1(CC1)N1CCC(CC1)(C1=CC=CC=C1)COCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C30H29F3N2O
